US05578620
2-t-Butyldimethylsilyloxy-1-methylethylamine
Hydrogen was introduced into a mixture of 4.0 g of benzyl N-(2-t-butyldimethylsilyloxy-1-methylethyl)carbamate (prepared as described in Preparation 8), 0.80 g of 10% w/w palladium-on-carbon and 40 ml of ethanol for 1 hour. At the end of this time, the atmosphere was replaced by nitrogen, the palladium-on-carbon was removed by filtration from the reaction mixture, and the filtrate was concentrated by evaporation under reduced pressure, to give 1.88 g of the title compound having an Rf value of 0.27 (on silica gel thin layer chromatography, using a 1:3 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | Hydrogen | [H][H] | H2
reactant | benzyl N-(2-t-butyldimethylsilyloxy-1-methylethyl)carbamate | 4.0 g | [Si](C)(C)(C(C)(C)C)OCC(C)NC(OCC1=CC=CC=C1)=O | C17H29NO3Si
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-t-Butyldimethylsilyloxy-1-methylethylamine | 1.88 g | [Si](C)(C)(C(C)(C)C)OCC(C)N | C9H23NOSi
